US04430339
(b) 6-Cyclohexyloxy-2-methylenehexanoic acid ethyl ester
4.9 g of 6-cyclohexyloxy-2-methylenehexanoic acid ethyl ester, in the form of a colourless oil, which is purified by chromatography on silica gel (migrating agent: 90:10 petroleum ether/ethyl acetate), are obtained by the procedure described in Example (1b) from 7.4 g of [4-(cyclohexyloxy)-butyl]-malonic acid ethyl ester, 0.85 g of paraformaldehyde, 5.2 ml of pyridine and 0.3 ml of piperidine.

reactant | [4-(cyclohexyloxy)-butyl]-malonic acid ethyl ester | 7.4 g | C(C)OC(C(C(=O)O)CCCCOC1CCCCC1)=O | C15H26O5
reactant | paraformaldehyde | 0.85 g | C=O | CH2O
reactant | piperidine | 0.3 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 5.2 ml | N1=CC=CC=C1 | C5H5N
product | 6-Cyclohexyloxy-2-methylenehexanoic acid ethyl ester | C(C)OC(C(CCCCOC1CCCCC1)=C)=O | C15H26O3
